US06914074B2
2-Methoxy-6-(4-methoxyphenyl)-1-napthonitrile
A mixture of 1-bromo-2-methoxy-6-(4-methoxyphenyl)naphthalene (0.76 g, 2.21 g), CuCN (0.24 g, 2.66 mmol) and DMF (10 mL) was stirred at 120° C. for 4 hr. The reaction mixture was cooled to room temperature, slurried with ethyl acetate, filtered through silica, and evaporation of the solvent, and purification by silica column chromatography (20% ethyl acetate—hexanes) yielded 0.19 g (30%) of the title compound as a pale yellow solid: mp 182-185° C.; 1H NMR (CDCl3): δ 3.88 (3H, s), 4.09 (3H, s), 7.03 (2H, d, J=8.73 Hz), 7.29 (1H, d, J=9.12 Hz), 7.63 (2H, d, J=8.73 Hz), 7.88 (1H, dd, J=1.98 Hz, J=8.73 Hz), 7.97 (1H, d, J=1.98 Hz), 8.09 (1H, d, J=9.12 Hz), 8.14 (1H, d, J=8.73 Hz).

reactant | 1-bromo-2-methoxy-6-(4-methoxyphenyl)naphthalene | 0.76 g | BrC1=C(C=CC2=CC(=CC=C12)C1=CC=C(C=C1)OC)OC | C18H15BrO2
reactant | CuCN | 2.66 mmol, 0.24 g | C(#N)[Cu]
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Methoxy-6-(4-methoxyphenyl)-1-napthonitrile | 0.19 g, 30% | COC1=C(C2=CC=C(C=C2C=C1)C1=CC=C(C=C1)OC)C#N | C19H15NO2
